US05145869
Into a solution of methyl 5-(3,4-dichlorophenylsulfinyl)-4-(N,N-dipentylcarbamoyl)pentanoate (95 mg) in dry dichloromethane (10 ml) were added portions of m-chloroperbenzoic acid (80%, 51 mg) with stirring at 0° C. After stirring at room temperature for 2 hours, sodium sulfite was added. The reaction mixture was washed with a saturated sodium bicarbonate solution and water, dried over MgSO4, and concentrated in vacuo. The residue was recrystallized from hexane to give 100 mg of methyl 5-(3,4-dichlorophenylsulfonyl)-4-(N,N-dipentylcarbamoyl)pentanoate. The physical properties of this compound were identical to that of the compound which was prepared in example 1.

reactant | methyl 5-(3,4-dichlorophenylsulfinyl)-4-(N,N-dipentylcarbamoyl)pentanoate | 95 mg | ClC=1C=C(C=CC1Cl)S(=O)CC(CCC(=O)OC)C(N(CCCCC)CCCCC)=O | C23H35Cl2NO4S
reactant | m-chloroperbenzoic acid | 51 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | methyl 5-(3,4-dichlorophenylsulfonyl)-4-(N,N-dipentylcarbamoyl)pentanoate | 100 mg | ClC=1C=C(C=CC1Cl)S(=O)(=O)CC(CCC(=O)OC)C(N(CCCCC)CCCCC)=O | C23H35Cl2NO5S
